US07842696B2
DIPEA (137 mg, 0.18 mL, 1.06 mmol) was added to a stirred solution of dibenzofuran-2-carboxylic acid (75 mg, 0.35 mmol) in DMF (3 mL). HOBT (47.8 mg, 0.35 mmol) and EDCI (81.3 mg, 0.42 mmol) were then added at room temperature. After 2 minutes 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone trifluoroacetic acid salt (166 mg, 0.38 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added, filtered the solid precipitated to afford 60 mg (33.3%) of dibenzofuran-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 97.09%. 1H NMR (DMSO-d6): δ 8.7 (bs, 2H), 8.2 (d, 1H), 8.06 (d, 1H), 7.9-7.55 (m, 7H), 7.55 (t, 1H), 4.41-4.3 (bs, 2H), 3.8-3.6 (bs, 4H), 3.5-3.4 (bs, 2H), 3.2-3.0 (bs, 2H).

reactant | DIPEA | 1.06 mmol, 0.18 mL, 137 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | dibenzofuran-2-carboxylic acid | 0.35 mmol, 75 mg | C1=C(C=CC=2OC3=C(C21)C=CC=C3)C(=O)O | C13H8O3
reactant | HOBT | 0.35 mmol, 47.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.42 mmol, 81.3 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone trifluoroacetic acid salt | 0.38 mmol, 166 mg | FC(C(=O)O)(F)F.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | dibenzofuran-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 60 mg, 33.3% | O=C(CNC(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C27H22F3N3O4
